US20010021714A1
N-(3,4-dimethyl-5-isoxazolyl)-2-(4-chlorobenzyl)-benzolb]thiophene-3-sulfonamide was prepared by the method of Example 41 with 3,4-dimethyl-5-aminoisoxazole (1.2 mmoles, 1.4 g), NaH (3.0 mmoles, 73 mg), 2-(4-chlorobenzyl)-benzo[b]thiophene-3-sulfonylchloride (1.4 mmoles, 0.50 9) and THF (8 ml). Flash chromatography (50% ethyl acetate/hexanes) followed by recrystallization from methanol and water provided 1.04 g (27%) of a yellow solid, m.p. 100-102° C.

reactant | 3,4-dimethyl-5-aminoisoxazole | 1.2 mmoles, 1.4 g | CC1=NOC(=C1C)N | C5H8N2O
reactant | NaH | 3.0 mmoles, 73 mg | [H-].[Na+]
reactant | 2-(4-chlorobenzyl)-benzo[b]thiophene-3-sulfonylchloride | 1.4 mmoles | ClC1=CC=C(CC2=C(C3=C(S2)C=CC=C3)S(=O)(=O)Cl)C=C1 | C15H10Cl2O2S2
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | thiophene-3-sulfonamide | S1C=C(C=C1)S(=O)(=O)N | C4H5NO2S2
